US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((4-hydroxy-6-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
A mixture of ethyl 4-hydroxy-6-methoxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (0.6 g, 2 mmol), tert-butyl 2-aminoacetate hydrochloride (0.5 g, 3 mmol) in 5 mL dioxane was treated with N-ethyl-N-isopropylpropan-2-amine (0.7 g, 5 mmol). The mixture was warmed to 95° C. and stirred for 4 hours, M+1=418. The mixture was then cooled to room temperature and concentrated in vacuo. The crude product was purified by column chromatography eluting with 10-30% EtOAc/hexane to give 0.74 g of the title compound as a white yellow solid. MS (m/z)=418 (M+H)+.

reactant | ethyl 4-hydroxy-6-methoxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 2 mmol, 0.6 g | OC1=C(C(C2(CCOCC2)C2=CC=C(C=C12)OC)=O)C(=O)OCC | C18H20O6
reactant | tert-butyl 2-aminoacetate hydrochloride | 3 mmol, 0.5 g | Cl.NCC(=O)OC(C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 5 mmol, 0.7 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((4-hydroxy-6-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 0.74 g | OC1=C(C(C2(CCOCC2)C2=CC=C(C=C12)OC)=O)C(=O)NCC(=O)OC(C)(C)C | C22H27NO7
